US08222416B2
A mixture of {4-[1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-phenyl}-dimethyl-amine (80 mg, 0.17 mmol) in ethanol (3 mL), tetrahydrofuran (3 mL) and an aqueous sodium hydroxide solution (10%, 2 mL) was heated at reflux for 36 h. The mixture was diluted with ethyl acetate (100 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford {4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-dimethyl-amine (50 mg, 89%) as a white solid: LC/MS m/e calcd for C22H25N3 [M+H]+ 332.46, observed 332.1.

reactant | {4-[1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-phenyl}-dimethyl-amine | 0.17 mmol, 80 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(=CC2CCCC2)C2=CC=C(C=C2)N(C)C | C28H29N3O2S
reactant | sodium hydroxide | 2 mL | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | {4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-dimethyl-amine | 50 mg, 89% | C1(CCCC1)C=C(C1=CC=2C(=NC=CC2)N1)C1=CC=C(C=C1)N(C)C | C22H25N3
